Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ragweed / morphine / Percocet
 
Attending: ___.
 
Chief Complaint:
Scheduled admission for chemotherapy

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMH significant for Hodgkin's Lymphoma who presents 
for chemotherapy with AVD. During the patient's last cycle of 
chemotherapy, the patient developed nausea and lightheadeness 
but no syncope. The patient was admitted and workup including 
head CT, EEG, head and neck MRI/MRA, EKG, and cardiac enzymes 
were all negative. The patient was monitored on telemetry 
without any events. 

Today in clinic, the patient was hypotensive to 89/61. Patient 
reported feeling lightheaded with standing. He has had these 
symptoms before, and usually needs to rest before ambulating.  
Patient also reports dyspnea on exertion, fatigue, and 
peripheral edema. He denies any recent fever, chills, nausea, 
vomiting, chest pain, palpitations, orthopnea, PND, abdominal 
pain, diarrhea, and dysuria. 

Of note, the patient has a history of AVNRT, most recently 
documented from his admission in ___ for sepsis. At that 
time, the etiology was thought to be related to sepsis. The 
arrhythmia spontaneously resolved. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Long standing history of systemic sarcoidosis (skin, gut, 
eyes, pulmonary organs, and presumed neurosarcoidosis).
     - On prednisone and remicade in the past (discontinued ___ 
___, only received 3 month treatment).
     - Attempt to wean prednisone below 30mg unsuccessful.
- Chronic lymphadenopahy, 2 biopsies suggestive of sarcoidosis.
- On large doses of steroids.
- ___: Increased fatigue and weight loss -> enlarged 
retroperitoneal adenopathy, omental stranding, and new liver 
lesions.
     - Biopsy without evidence of lymphoma.
- ___: Follow up CT scan showed resolution of liver lesions 
and improvement in retroperitoneal adenopathy.
- ___: Underwent surgical exploration and omental biopsy, 
highly suspicious for classical Hodgkin's lymphoma.
- ___: Was seen in the ___ clinic for consideration of 
treatment for classical Hodgkin's lymphoma. Staging PET scan 
showed FDG avid adenopathy above and below the diaphragm with 
lesions in the liver and tail of pancreas. BM biopsy 
demonstrated involvement with Hodgkin's lymphoma. Echo 
demonstrated normal EF on ___. PFT's on ___ demonstrated 
moderately severe obstructive defect with mild restriction
- Final Diagnosis: Advanced Hodgkin's lymphoma (stage IV due to 
BM
involvement). IPS score: 5 (male, age >___, stage IV, Albumin <4, 
Lymphopenia <600) Predicted PFS and OS ranged between 75=88% and 
85-98% respectively
- ___: Received D1C1 ABVD. Immuran stopped and PSE dose 
reduced to 30mg/day from 40mg/day.
___: PSE dose reduced to 25mg/day.
___: Admitetd to hospital for netropenic fevers followed by
sepsis reuiring a 24 hour MICU stay and use of pressors.
Developed AVNRT in the setting of sepsis. Evaluted by cardiology
and plan was conservative treatment with Beta blockers as it was
a provoked event. Rcd port placement after resolution of sepsis
and recover of counts in house but was complicated by arterial
bleed leading to evacuation and repeat procedure.
___: C1D15 of AVD in house. Bleomycin was dropped due to
concern of decling DLCO's. Rcd Neupogen daily 24 hours after
chemo until 24 hours prior to the next cycle of chemo. 
___: PFT's repeated by Dr ___ which showed that DLCO
had dropped from 63% preABVD to 52% today which is a 18% drop.
After long discussion with Dr ___ was made to be
cautious and hold bleomycin. 
___: During C2D1 of AVD in the clinic, expired brief pre
syncope episode that lasted for ___ seconds with no post ictal
confusion. Admitted to ___ for 24 hour period. Evalution revealed
no new changes on MRI/MRA head and neck and 45 min EEG 
monitoring
was neg. Cardiac evaluation was also negative. Dose of PSE 
reduced
to 25mg/day after C2D1. Discharged from hospital.

PAST MEDICAL/SURGICAL HISTORY:  
- Sarcoidosis, dx skin bx: intestinal & pulmonary involvement, 
recurrent iritis
- Inflammatory bowel disease; s/p ileo-hemicolectomy ___, 
path +sarcoid   
- GERD.  
- Hyperlipidemia
-  OSA on CPAP
- Asthma.  
- Osteoarthritis.  
- Fractured pelvis, ___ s/p fall.
- BPH, status post prostatectomy.  
- Depression.  
- History of ITP, status post splenectomy in ___.   
- Hard of hearing and wears hearing aid.
- H/o AVNRT

 
Social History:
___
Family History:
Mother: ___, cardiac disease.  
Father: diverticulosis, peptic ulcer disease, died at age ___.  
Maternal grandfather: ___ cancer.  
Two siblings, living and healthy.  

 
Physical Exam:
ON ADMISSION:
=========================================
VITALS T97.8 BP104/70 +Orthostatic hypotension P85 RR20 SpO298RA 
Wt143.2lbs
General: Laying in bed, appears comfortable, hard of hearing, 
pleasant, no acute distress. 
HEENT: Pupils equal and reactive to light. Oropharynx clear.
Neck: Supple, no JVD, no cervical lymphadenopathy
CV:  Regular rate and rhythm, normal S1, S2. ___ diastolic 
murmur loudest at the apex. No S3, S4. 
Lungs: Clear to auscultation bilaterally. No wheezes, crackles, 
or rhonchi.
Abdomen: +BS, soft, nondistended, nonteder to palpation. 
GU: No foley.
Ext: Warm and well perfused. Trace-1+ peripheral edema. Pulses 
2+.
Neuro: CN II-XII grossly intact. Moves all extremities grossly. 
+ Cogwheel rigidity in wrists bilaterally and upper extremities, 
R>L.

ON DISCHARGE:
==========================================
VITALS: T97.7 BP118/72 P78 R18 98RA
Orthostatics: Laying BP112/64   P72
              Sitting BP118/72  P74
              Standing BP114/72 P78
General: Laying in bed, appears comfortable, hard of hearing, 
pleasant, no acute distress. 
HEENT: Oropharynx clear.
Neck: Supple, no JVD, no cervical lymphadenopathy
CV:  Regular rate and rhythm, normal S1, S2. ___ diastolic 
murmur loudest at the apex. No S3, S4. 
Lungs: Clear to auscultation bilaterally. No wheezes, crackles, 
or rhonchi.
Abdomen: +BS, soft, nondistended, nonteder to palpation. 
GU: No foley.
Ext: Warm and well perfused. Trace peripheral edema. Pulses 2+.
Neuro: CN II-XII grossly intact. Moves all extremities grossly. 
+ Cogwheel rigidity in wrists bilaterally and upper extremities, 
R>L.

 
Pertinent Results:
ON ADMISSION:
===================================
___ 09:30AM BLOOD WBC-14.2*# RBC-2.47* Hgb-7.9* Hct-25.2* 
MCV-102* MCH-32.1* MCHC-31.5 RDW-25.0* Plt ___
___ 09:30AM BLOOD Neuts-59 Bands-13* Lymphs-1* Monos-6 
Eos-0 Baso-0 ___ Metas-4* Myelos-10* Promyel-5* Blasts-2* 
NRBC-111*
___ 09:30AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-3+ 
Macrocy-2+ Microcy-NORMAL Polychr-1+ Ovalocy-1+ 
Target-OCCASIONAL Tear ___ Bite-OCCASIONAL
___ 09:30AM BLOOD UreaN-21* Creat-1.1 Na-138 K-3.7 Cl-106 
HCO3-23 AnGap-13
___ 09:30AM BLOOD ALT-39 AST-46* AlkPhos-234* TotBili-0.3
___ 09:30AM BLOOD TotProt-5.4* Albumin-3.4* Globuln-2.0 
Calcium-8.7 Phos-2.4* Mg-1.7 UricAcd-4.2

ON DISCHARGE:
===================================
___ 09:35AM BLOOD WBC-11.0 RBC-2.79*# Hgb-9.1*# Hct-28.2*# 
MCV-101* MCH-32.5* MCHC-32.2 RDW-23.4* Plt ___
___ 12:00AM BLOOD Neuts-73* Bands-5 Lymphs-7* Monos-3 Eos-0 
Baso-0 ___ Metas-2* Myelos-5* Promyel-2* Blasts-3* NRBC-131*
___ 12:00AM BLOOD Glucose-138* UreaN-20 Creat-1.0 Na-137 
K-4.1 Cl-107 HCO3-21* AnGap-13
___ 12:00AM BLOOD ALT-40 AST-42* LD(LDH)-994* AlkPhos-192* 
TotBili-0.4
___ 12:00AM BLOOD Calcium-8.0* Phos-3.1 Mg-1.___ with PMH significant for Hodgkin's lymphoma, sarcoidosis, 
h/o AVNRT presents for scheduled chemotherapy with AVD.

# Stage IV Hodgkin's Lymphoma:
The patient was admitted for close monitoring during 
chemotherapy with AVD as he experienced pre-syncope during his 
last chemotherapy session. The patient tolerated chemotherapy 
well without any dizziness, nausea, and vomiting. He was 
continued on prophylaxis with acyclovir and bactrim. Fluconazole 
was held on the day of chemotherapy administration due to drug 
interactions.

# Orthostatic hypotension:
Patient noted to be orthostatic on admission. The patient 
described several episodes of dizziness with standing. The 
patient was recently evaluated by neurology and autonomic 
testing showed abnormal parasympathetic function and decreased 
sympathetic cholinergic function. Etiology of this is uncertain. 
It may be related to sarcoidosis. The patient also had some 
rigidity on exam, therefore he may have early parkinsonism as 
well. The patient was not orthostatic prior to discharge.
 
# H/o AVNRT:
The patient had a few episodes of AVNRT during previous 
admissions. The most recent episode occurred in the setting of 
sepsis. The patient was monitored on telemetry and had no 
episodes of tachycardia. Metoprolol was discontinued as this 
medication does not prevent SVT. Furthermore, beta blockade 
likely exacerbates his orthostatic hypotension.

# Anemia:
Likely secondary to chemotherapy. Given shortness of breath, the 
patient was transfused 1 unit with an appropriate rise in Hct. 
 
# Systemic Sarcoidosis: 
Involves skin, gut, eyes, lungs, and presumed neurosarcoidosis. 
He was continued on prednisone 25mg daily. 

# Depression: Stable. Continued on fluoxetine 40mg daily.

# Obstructive Sleep Apnea: The patient refused CPAP. 

TRANSITIONAL ISSUES:
- Patient to follow up with primary oncologist.
- The patient was instructed to restart Neupogen on ___.
- Patient to have labs (CBC, Chem10, LFTs) on ___ or ___ 
(office will notify patient of appointment date).
- Encourage fluid and increased salt intake for orthostatic 
hypotension.
- Consider further workup including Neurology evaluation for 
orthostatic hypotension.
- Patient with abundant NRBCs on differential. Consider further 
work up as an outpatient.
- Code status: Full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. PredniSONE 25 mg PO DAILY 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Fluconazole 400 mg PO Q24H 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Acyclovir 400 mg PO Q8H 
7. Omeprazole 40 mg PO BID 
8. Fluoxetine 40 mg PO DAILY 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Fluoxetine 40 mg PO DAILY 
3. Omeprazole 40 mg PO BID 
4. PredniSONE 25 mg PO DAILY 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Vitamin D ___ UNIT PO DAILY 
9. Fluconazole 400 mg PO Q24H 
10. Filgrastim 300 mcg SC Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Hodgkins' lymphoma 
 
SECONDARY DIAGNOSIS: 
Orthostatic hypotension 
Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. As you know, you were admitted for monitoring 
while you received chemotherapy as you had some nausea and 
lightheadedness during your previous chemotherapy session. You 
tolerated the procedure well! Please re-start neupogen on 
___.

The cardiologists also saw you due to your history of fast heart 
rate. Because you become dizzy with standing (we call this 
orthostatic hypotension), the cardiologists recommend you 
discontinue metoprolol. To prevent dizziness with standing in 
the future, please change positions (sitting to standing) 
slowly. We also encourage you to drink fluids throughout the 
day.

Please have labs drawn early next week ___ or ___. We 
are working on booking you an appointment so you should hear 
from them shortly. If you do not hear from them on ___, 
please call ___.

We are glad you are doing well and we wish you the best!
 
Followup Instructions:
___